US08124617B2
2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine-5-carbonitrile
A solution (10 ml) of 2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine 4-oxide, triethylamine (0.11 g) and trimethylsilyl cyanide (0.22 g) in acetonitrile was heated under reflux for 5 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated. The obtained crude crystals were washed with diethyl ether to give the title compound (0.15 g, yield 69%) as colorless crystals. melting point 214-215° C. purity 93%. M+H: 385. 1H NMR (CDCl3) δ: 1.53 (6H, d, J=6.0 Hz), 4.77-4.85 (1H, m), 5.16 (2H, s), 7.06 (1H, d, J=9.0 Hz), 7.12-7.18 (1H, m), 7.32-7.50 (5H, m), 7.66 (1H, d, J=8.1 Hz), 8.12 (1H, d, J=8.1 Hz), 8.20 (1H, d, J=3.0 Hz).

reactant | 2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine 4-oxide | 10 ml | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=[N+](C=CC2)[O-])N1)OC(C)C | C22H21N3O3
reactant | triethylamine | 0.11 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl cyanide | 0.22 g | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-[5-(benzyloxy)-2-isopropoxyphenyl]-3H-imidazo[4,5-b]pyridine-5-carbonitrile | 0.15 g, yield 69% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NC=2C(=NC(=CC2)C#N)N1)OC(C)C | C23H20N4O2
